US04596816
Zinc dust (0.87 g) was added portionwise under stirring at 80°-90° C. into a suspension of 2-chloro-3-[4-(4-chlorophenyl)-2-methyl-5-oxazolyl]-propionic acid (1.0 g) in acetic acid (10 ml). After heating for 40 minutes, undissolved materials were filtered off and water was added to the filtrate. The resulting crystalline precipitate was collected by filtration to give 4-(4-chlorophenyl)-2-methyloxazole-5-propionic acid, yield 0.83 g (94.3%). Recrystallization from ethanol gave colorless needles, m.p. 211°-212° C. The IR and NMR spectra of this compound were in agreement with those of the compound obtained in Example 5.

reactant | 2-chloro-3-[4-(4-chlorophenyl)-2-methyl-5-oxazolyl]-propionic acid | 1.0 g | ClC(C(=O)O)CC1=C(N=C(O1)C)C1=CC=C(C=C1)Cl | C13H11Cl2NO3
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
catalyst | Zinc | 0.87 g | [Zn] | Zn
product | 4-(4-chlorophenyl)-2-methyloxazole-5-propionic acid | ClC1=CC=C(C=C1)C=1N=C(OC1CCC(=O)O)C | C13H12ClNO3
